US04970213
A suspension of 38.75 g of 2,7-dichloro-6-fluoro-quinoline-3-carboxylic acid in 410 cm3 of trichloromethane and 24 cm3 of thionyl chloride is heated at a temperature close to 60° C., with stirring, for 6 hours. The solution obtained is concentrated to dryness under reduced pressure (20 kPa) at 50° C. The dry extract is twice taken up in a total of 200 cm3 of toluene and again concentrated under reduced pressure under the same conditions as above. The yellow solid obtained, which melts at 124° C., is dissolved in 230 cm3 of anhydrous tetrahydrofuran. The solution obtained is introduced dropwise, with stirring, in the course of 30 minutes, at between 5° and 10° C., into 200 cm3 of a solution of magnesium chelate in tetrahydrofuran, the preparation of which is described below. The temperature is allowed to rise to 20° C. and the mixture is stirred for 1 hour and a half at this temperature. The solution obtained is introduced dropwise, with vigorous stirring, at a temperature close to 5° C., into 1 liter of 0.5 N sulphuric acid. The temperature of the suspension obtained is allowed to rise to 20° C. and the suspension is stirred for a further 2 hours at this temperature. The suspension is extracted with 1 liter of ethyl acetate and the organic and aqueous phases are filtered through diatomaceous silica for filtration, which enables a small amount of insoluble matter to be removed, and the aqueous phase is extracted twice more with 500 cm3 of ethyl acetate. The combined organic extracts are washed with twice 500 cm3 of water, dried over magnesium sulphate and filtered and the filtrate is concentrated to dryness under reduced pressure (20 kPa) at 40° C. The residue is taken up in 100 cm3 of diisopropyl ether at 20° C., drained and washed with twice 30 cm3 of diisopropyl ether. 40.55 g of ethyl 3-(2,7-dichloro-6-fluoro-3-quinolyl)-3-oxopropionate are obtained in the form of a beige solid melting at 112°-114° C. This product is used for the subsequent steps without further purification.

reactant | 2,7-dichloro-6-fluoro-quinoline-3-carboxylic acid | 38.75 g | ClC1=NC2=CC(=C(C=C2C=C1C(=O)O)F)Cl | C10H4Cl2FNO2
reactant | magnesium | [Mg] | Mg
reactant | sulphuric acid | 0.5 N, 1 liter | S(O)(O)(=O)=O | H2O4S
reactant | tetrahydrofuran | 230 cm3 | O1CCCC1 | C4H8O
solvent | trichloromethane | 410 cm3 | ClC(Cl)Cl | CHCl3
solvent | thionyl chloride | 24 cm3 | S(=O)(Cl)Cl | Cl2OS
product | ethyl 3-(2,7-dichloro-6-fluoro-3-quinolyl)-3-oxopropionate | 40.55 g | ClC1=NC2=CC(=C(C=C2C=C1C(CC(=O)OCC)=O)F)Cl | C14H10Cl2FNO3
